US04931450
N-(4-Phenyl-4-(4-pyridyl)but-3-en-1-yl)nipecotic acid, ethyl ester
1-Bromo-4-phenyl-4-(4-pyridyl)but-3-ene (1.0 g, 3.5 mmol), ethyl nipecotate (0.72 g, 4.6 mmol) and potassium carbonate (1.93 g, 14.0 mmol) in acetone (30 ml) were stirred at room temperature for 5 days. The reaction mixture was filtered, and evaporated to a residue which was purified by flash chromatography on silica gel (Merck Art 9385). Elution with dichloromethane/ethanol/25% ammonium solution (190:9:1) provided the title compound as an oil. T.l.c. rf=0.23 (SiO2, CH2Cl2 /EtOH/NH3 (190:9:1)).

reactant | 1-Bromo-4-phenyl-4-(4-pyridyl)but-3-ene | 3.5 mmol, 1.0 g | BrCCC=C(C1=CC=NC=C1)C1=CC=CC=C1 | C15H14BrN
reactant | ethyl nipecotate | 4.6 mmol, 0.72 g | N1CC(C(=O)OCC)CCC1 | C8H15NO2
reactant | potassium carbonate | 14.0 mmol, 1.93 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | N-(4-Phenyl-4-(4-pyridyl)but-3-en-1-yl)nipecotic acid, ethyl ester | C1(=CC=CC=C1)C(=CCCN1CC(C(=O)OCC)CCC1)C1=CC=NC=C1 | C23H28N2O2
